US05318966
4.0 g (0.01525 mol) of ethyl 1,2,3,4-tetrahydro-5-methoxy-2-oxo-1-naphthylacetate were dissolved in 80 ml of toluene, 2.22 ml (0.01525 mol) of N-(3-aminopropyl)-morpholine were added thereto and the mixture was boiled for 43 hours on a water separator. After concentration the residue was hydrogenated with 1.5 g of Raney-nickel in 150 ml of ethanol at 120° and 140 bar for 10 hours. The product was chromatographed over silica gel with ethyl acetate/methanol 5:1, dissolved in hot isopropyl ether and crystallized at room temperature. There were obtained 3.58 g (68%) of rac-cis-1,3,3a,4,5,9b-hexahydro-6-methoxy-3-(3-morpholin-4-yl-propyl)-2H-benzo[e]indol-2-one as white crystals with m.p. 65°-67° and 0.93 g (18%) of oily material from the mother liquors.

reactant | ethyl 1,2,3,4-tetrahydro-5-methoxy-2-oxo-1-naphthylacetate | 0.01525 mol, 4.0 g | COC1=C2CCC(C(C2=CC=C1)CC(=O)OCC)=O | C15H18O4
reactant | N-(3-aminopropyl)-morpholine | 0.01525 mol, 2.22 ml | NCCCN1CCOCC1 | C7H16N2O
reactant | water | O | H2O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | rac-cis-1,3,3a,4,5,9b-hexahydro-6-methoxy-3-(3-morpholin-4-yl-propyl)-2H-benzo[e]indol-2-one | 3.58 g, 68% | COC1=CC=CC=2[C@H]3CC(N([C@H]3CCC21)CCCN2CCOCC2)=O | C20H28N2O3
